US07511035B2
(d) 1,1-dimethylethyl [2-(4-hydroxy-4-piperidinyl)ethyl]carbamate
A solution of 1,1-dimethylethyl {2-[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate (3.2 g, 9.5 mmol) and Pd(OH)2 (1.92 g, 60 wt %) in EtOH (50 mL) was hydrogenated using a Parr Shaker under 50 psi. After 12 h, the solution was filtered through Celite® and concentrated yielding the title compound (2.33 g, quant.) as a yellow oil: LCMS (ES) m/e 245 (M+H)+.

reactant | 1,1-dimethylethyl {2-[4-hydroxy-1-(phenylmethyl)-4-piperidinyl]ethyl}carbamate | 9.5 mmol, 3.2 g | OC1(CCN(CC1)CC1=CC=CC=C1)CCNC(OC(C)(C)C)=O | C19H30N2O3
solvent | EtOH | 50 mL | CCO | C2H6O
catalyst | Pd(OH)2 | 1.92 g | [OH-].[OH-].[Pd+2]
product | 1,1-dimethylethyl [2-(4-hydroxy-4-piperidinyl)ethyl]carbamate | 2.33 g | OC1(CCNCC1)CCNC(OC(C)(C)C)=O | C12H24N2O3
